US04968702
2-Amino-4'-phenylacetophenone, hydrochloride
To 400 ml of chloroform in a 3 liter flask equipped with a mechanical stirrer was added 50 g of 2-bromo-4'-phenylacetophenone and 26.4 g of hexamethylenetetramine. The solution was stirred at 48° C. for 4 hours, then cooled to 20° C., and the resulting solid collected and washed with a small amount of absolute ethanol. The solid was suspended in a solution of 270 ml of absolute ethanol and 134 ml of concentrated hydrochloric acid and stirred at 20° C. for 22 hours. This solid was collected washed with 100 ml of water and dried at 75° C. in vacuo, giving 54.9 g of the desired compound as a white solid, mp 260° C.

reactant | 2-bromo-4'-phenylacetophenone | 50 g | BrCC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C14H11BrO
reactant | hexamethylenetetramine | 26.4 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-4'-phenylacetophenone, hydrochloride | 54.9 g | Cl.NCC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | InChI=1S/C14H13NO.ClH/c15-10-14(16)13-8-6-12(7-9-13)11-4-2-1-3-5-11;/h1-9H,10,15H2;1H
